US04112108
A mixture of 12.5 g. potassium acetate (0.128 mole), 20.1 g. (0.064 mole) α-bromo-o-(5-phenyl-3-isoxazolyl)toluene and 200 ml. acetic acid is refluxed for 22 hours. The mixture is cooled and the acetic acid evaporated in vacuo. The residue is distilled on high vacuum and the fraction distilling at 140°-150° C. (0.25 mm) is collected and then crystallized from peteroleum ether containing a small amount of ether to give o-(5-phenyl-3-isoxazolyl)benzyl acetate; m.p. 50° to 62° C.

reactant | potassium acetate | 0.128 mole | C(C)(=O)[O-].[K+]
reactant | α-bromo-o-(5-phenyl-3-isoxazolyl)toluene | 0.064 mole | BrCC1=C(C=CC=C1)C1=NOC(=C1)C1=CC=CC=C1 | C16H12BrNO
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | o-(5-phenyl-3-isoxazolyl)benzyl acetate | C(C)(=O)OCC1=C(C=CC=C1)C1=NOC(=C1)C1=CC=CC=C1 | C18H15NO3
